US03932487
A mixture of 6 g. of 2-(6-carbethoxyhexyl)-2-cyclopentenone, 10 ml. of propanethiol, and 7.2 ml. of piperidine is allowed to stand for 5 days at room temperature, then diluted with 150 ml. of ether, and the ether phase is washed first with a mixture of 60 ml. of ice water and 6 ml. of concentrated HCl, and then with saturated aqueous NaCl solution, dried over NaSO4, and the solvent distilled off. After purifying the residue by chromatography (silica gel/chloroform), 2-(carbethoxyhexyl)-3-propylthio-cyclopentanone is produced as an oil.

reactant | 2-(6-carbethoxyhexyl)-2-cyclopentenone | C(=O)(OCC)CCCCCCC=1C(CCC1)=O | C14H22O3
reactant | propanethiol | C(CC)S | C3H8S
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-(carbethoxyhexyl)-3-propylthio-cyclopentanone | C(=O)(OCC)CCCCCCC1C(CCC1SCCC)=O | C17H30O3S
